US07074819B2
(3RS,4RS)-4-(3-Azidopropyl}7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (170 mg, 4.0 mmol) was dissolved in methanol (20 ml) and tetrahydrofuran (5 ml), 10% palladium on carbon (50 mg) was added to this solution, which was then stirred at room temperature under hydrogen for 12 hours. The reaction solution was filtered through cellite and concentrated under reduced pressure to give a crude product. This crude product thus obtained was subjected to silica gel column chromatography (chloroform:methanol:ammonia water=10:1:0.1) to give (3RS,4RS)-4-(3-aminopropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman (116 mg, yield 73%).

reactant | (3RS,4RS)-4-(3-Azidopropyl}7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 4.0 mmol, 170 mg | N(=[N+]=[N-])CCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C23H29N3O5
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ammonia water | O.N
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | (3RS,4RS)-4-(3-aminopropyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 116 mg, yield 73% | NCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C23H31NO5
